US08957070B2
2-(Pyridin-2-yl)-1H-indole-7-amine
A mixture of 7-nitro-2-(pyridin-2-yl)-1H-indole (0.47 g), 10% palladium-carbon (50% water, 0.05 g), ethanol (4 mL) and tetrahydrofuran (10 mL) was stirred at room temperature overnight under a hydrogen atmosphere. Palladium-carbon was filtered off, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography and the title compound (0.35 g, yield 85%) was obtained as pale-yellow crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). melting point 165-166° C.

reactant | 7-nitro-2-(pyridin-2-yl)-1H-indole | 0.47 g | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C1=NC=CC=C1 | C13H9N3O2
reactant | ethanol | 4 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.05 g | [C].[Pd]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(Pyridin-2-yl)-1H-indole-7-amine | 0.35 g, yield 85% | N1=C(C=CC=C1)C=1NC2=C(C=CC=C2C1)N | C13H11N3
